US07605181B2
Step B: Preparation of 6-[3-(2,6 dimethylbenzyloxy)-phenyl]-hex-5-enoic acid ethyl ester
A mixture of 13.29 g of triphenylethylvalerate phosphonium bromide and 0.745 g of sodium hydride in 40 ml of DMSO was stirred for 30 min, under nitrogen in a 3-necked, 100 ml round bottom flask equipped with a stir bar, reflux condenser with a nitrogen inlet and a thermocouple. The mixture changed from light yellow to brown and heated to 40.2° C. from 23.2° C. 5.00 g of 3-(2,6-dimethylbenzyloxy)benzaldehyde was dissolved in 20 ml of DMSO and added, dropwise over a 4 min. period to the reaction mixture. The mixture heated to 26.8° C. from 21.8° C. The reaction mixture was stirred and allowed to cool to room temperature. The reaction was analyzed after 1 hr. and LC-MS showed almost all the starting aldehyde left and ˜3% desired product. The reaction mixture was heated to 50° C. and stirred for 3 hrs. The reaction was analyzed after 2 and 3 hrs. LC-MS showed ˜20% starting aldehyde left and 17% desired product. The reaction was cooled to room temperature and placed in a refrigerator overnight.

reactant | triphenylethylvalerate phosphonium bromide | 13.29 g | [Br-].[PH4+].C1(=CC=CC=C1)C(COC(CCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 0.745 g | [H-].[Na+]
reactant | 3-(2,6-dimethylbenzyloxy)benzaldehyde | 5.00 g | CC1=C(COC=2C=C(C=O)C=CC2)C(=CC=C1)C | C16H16O2
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 6-[3-(2,6 dimethylbenzyloxy)-phenyl]-hex-5-enoic acid ethyl ester | ~3% | C(C)OC(CCCC=CC1=CC(=CC=C1)OCC1=C(C=CC=C1C)C)=O | C23H28O3
